US08030499B2
Step 74-1: Synthesis of (2S)-2-[(tert-butoxy carbonyl)amino]butanoic acid
In an aqueous solution of 2 mol/L NaOH (30 ml), 3.00 g of (2S)-2-amino butanoic acid was dissolved, THF (10 ml) and (Boc)2O (25 ml) were added, and the solution was stirred at room temperature for 4 hours. EtOAc was added, liquid separation was performed, the pH of the aqueous layer was adjusted to 2 with 1 mol/L hydrochloric acid, and then, this was extracted with EtOAc. The organic layers were combined, washed with water and saturated brine, dried over MgSO4, then, the drying agent was separated by filtration, and the solvent was evaporated under reduced pressure to obtain 4.50 g of the title compound. The present compound was used in the next reaction without purification.

reactant | (2S)-2-amino butanoic acid | 3.00 g | N[C@H](C(=O)O)CC | C4H9NO2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | (Boc)2O | 25 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaOH | 2 mol/L, 30 ml | [OH-].[Na+]
product | (2S)-2-[(tert-butoxy carbonyl)amino]butanoic acid | 4.50 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
